US08440829B2
To a solution of ethyl 5-[1-[(2S)-2-methoxypropyl]-3-methyl-2-oxo-imidazo[4,5-c]quinolin-8-yl]pyridine-3-carboxylate (32.0 g, 76.1 mmol) in tetrahydrofuran (320 mL), slowly add MeMgBr (1.4M in tetrahydrofuran/toluene, 221.4 g, 6.92×) solution under N2 protection with temperature below 0° C. Stir the mixture at −5˜0° C. for one hour under N2 protection. Add NH4Cl solution (15%, 320 mL) slowly to quench the reaction while keeping the temperature below 25° C. Then add ethyl acetate (320 mL). Warm up the mixture to 25˜30° C. and stir for half hour. After separation of two layers, back extract the aqueous layer with tetrahydrofuran (160 mL). Wash the combined organic with brine (192 mL). Add active charcoal (1.6 g) to the organic layer and stir at 65˜75° C. for 4-5 hours. Filter the mixture with Kieselguhr® Silica-Thiol (1.6 g). Stir the organic layer at 65˜75° C. for 2-3 hours; the mixture is then filtered by Kieselguhr® Silica-Thiol. The organic layer is removed under vacuum and the re-crystallized with ethyl acetate/tetrahydrofuran to give 8-[5-(1-hydroxy-1-methylethyl)pyridin-3-yl]-1-[(2S)-2-methoxypropyl]-3-methyl-1,3-dihydro-2H-imidazo[4,5-c]quinolin-2-one as a light yellow solid (22.34 g, 72.2%).

reactant | ethyl 5-[1-[(2S)-2-methoxypropyl]-3-methyl-2-oxo-imidazo[4,5-c]quinolin-8-yl]pyridine-3-carboxylate | 76.1 mmol, 32.0 g | CO[C@H](CN1C(N(C=2C=NC=3C=CC(=CC3C21)C=2C=C(C=NC2)C(=O)OCC)C)=O)C | C23H24N4O4
reactant | MeMgBr | 1.4M, 221.4 g | C[Mg+].[Br-]
reactant | ethyl acetate | 320 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 320 mL | O1CCCC1 | C4H8O
product | 8-[5-(1-hydroxy-1-methylethyl)pyridin-3-yl]-1-[(2S)-2-methoxypropyl]-3-methyl-1,3-dihydro-2H-imidazo[4,5-c]quinolin-2-one | 22.34 g, 72.2% | OC(C)(C)C=1C=C(C=NC1)C1=CC=2C3=C(C=NC2C=C1)N(C(N3C[C@H](C)OC)=O)C | C23H26N4O3
